US06166006
A mixture of 1-(4-nitrobenzyl)phosphorane-1-oxide (1.80 g) and 10% Pd-C (0.2 g) in ethanol (30 ml) was vigorously stirred under hydrogen atmosphere for 24 hours, and the catalyst was filtered off. The filtrate was concentrated and purified with column chromatography (ethanol/ethyl acetate=1:2) and recrystallized from ethanol-diethylether to give 1-(4-aminobenzyl)phosphorane-1-oxide (0.90 g) as colorless crystals.

reactant | 1-(4-nitrobenzyl)phosphorane-1-oxide | 1.80 g | [N+](=O)([O-])C1=CC=C(C[PH2]=O)C=C1 | C7H8NO3P
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.2 g | [Pd] | Pd
product | 1-(4-aminobenzyl)phosphorane-1-oxide | 0.90 g | NC1=CC=C(C[PH2]=O)C=C1 | C7H10NOP
